US05736548
A mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (2.03 g, 9.14 mmol), 4-[3-(dimethylamino)propoxy]benzaldehyde (2.76 ml), and xylenes was heated at 120° C. for 1 hour, then at 160° C. for 6 hours. p-Toluenesulfonic acid (300 mg) was added and the mixture was heated at 160° C. until the reaction was complete. The reaction mixture was cooled to room temperature, and a creamy white solid formed, which was collected by filtration, washed with methanol and recrystallized from ethyl acetate to afford 1-cyclopentyl-3-ethyl-6-[4-[3-(dimethylamino)propoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one, as a white solid, m.p. 175°-178° C.

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 9.14 mmol, 2.03 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 4-[3-(dimethylamino)propoxy]benzaldehyde | 2.76 ml | CN(CCCOC1=CC=C(C=O)C=C1)C | C12H17NO2
reactant | p-Toluenesulfonic acid | 300 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-cyclopentyl-3-ethyl-6-[4-[3-(dimethylamino)propoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC=C(C=C2)OCCCN(C)C)CC | C23H31N5O2
